US08648066B2
1-{6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methanamine.
Prepared as an acetate salt by the method of example 6 using 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate and 2-(azidomethyl)-4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline (reagent preparation 45) in step 3 followed by reduction of the azide to the amine (LaRock, R. C. Comprehensive Organic Transformations: A Guide to Functional Group Preparations 1989, VCH Publishers, Inc., New York). 1H NMR (400 MHz, DMSO-d6) δ 8.52 (d, 1H), 8.04 (d, 1H), 7.74 (d, 1H), 7.54 (dd, 1H), 7.04 (d, 1H), 4.68 (s, 2H), 4.34-4.28 (m, 2H), 3.92-3.87 (m, 2H), 3.63-3.59 (m, 2H), 2.69 (t, 2H), 2.54 (s, 3H), 2.46 (s, 2H), 1.86 (s, 5H), 1.59 (t, 2H), 0.86 (s, 6H); MS (EI) for C27H31N7O: 470 (MH+).

reactant | 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate | CC=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C | C21H24N4O3
reactant | 2-(azidomethyl)-4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline | N(=[N+]=[N-])CC1=NC=2CCC(CC2C(=N1)Cl)(C)C | C11H14ClN5
reactant | azide | [N-]=[N+]=[N-]
product | 1-{6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methanamine | CC1(CC=2C(=NC(=NC2CC1)CN)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)C)C | C27H31N7O
